US07759366B2
0.325 g of 4-bromobenzenesulfonamide was admixed with 0.82 g of dimethylformamide dimethyl acetal in 1.6 ml of dry dimethylformamide and stirred at room temperature for 90 min. For workup, the reaction mixture was admixed with 10 ml of water, and the precipitate was filtered off with suction, filtered and dried under reduced pressure. 4-Bromo-N-[1-dimethylaminomethylidene]benzenesulfonamide was obtained in a yield of 85%. Molecular weight 289.97 (C9H11BrN2O2S); retention time Rt=1.3 min. [B]; MS (ESI): 290.96 (MH+).

reactant | 4-bromobenzenesulfonamide | 0.325 g | BrC1=CC=C(C=C1)S(=O)(=O)N | C6H6BrNO2S
reactant | dimethylformamide dimethyl acetal | 0.82 g | COC(N(C)C)OC | C5H13NO2
reactant | water | 10 ml | O | H2O
solvent | dimethylformamide | 1.6 ml | CN(C=O)C | C3H7NO
product | 4-Bromo-N-[1-dimethylaminomethylidene]benzenesulfonamide | yield of 85% | BrC1=CC=C(C=C1)S(=O)(=O)N=CN(C)C | C9H11BrN2O2S
